US07566724B2
To (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(4-methoxytetrahydropyran-4-yl)-phenyl]pent-4-enoic acid (4.24 g), THF (8.86 ml) and 1N aqueous sodium hydroxide solution (8.86 ml) were added, and the resulting mixture was stirred at room temperature for 5 minutes. The reaction solution was concentrated to dryness to obtain (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(4-methoxytetrahydropyran-4-yl)-phenyl]pent-4-enoic acid sodium salt (4.30 g).

reactant | (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(4-methoxytetrahydropyran-4-yl)-phenyl]pent-4-enoic acid | 4.24 g | ClC1=C(C(=O)N[C@H](C(=O)O)C\C=C\C2=CC=C(C=C2)C2(CCOCC2)OC)C(=CC=C1)Cl | C24H25Cl2NO5
reactant | sodium hydroxide | 1N, 8.86 ml | [OH-].[Na+]
solvent | THF | 8.86 ml | C1CCOC1 | C4H8O
product | (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(4-methoxytetrahydropyran-4-yl)-phenyl]pent-4-enoic acid sodium salt | 4.30 g | [Na+].ClC1=C(C(=O)N[C@H](C(=O)[O-])C\C=C\C2=CC=C(C=C2)C2(CCOCC2)OC)C(=CC=C1)Cl | InChI=1S/C24H25Cl2NO5.Na/c1-31-24(12-14-32-15-13-24)17-10-8-16(9-11-17)4-2-7-20(23(29)30)27-22(28)21-18(25)5-3-6-19(21)26;/h2-6,8-11,20H,7,12-15H2,1H3,(H,27,28)(H,29,30);/q;+1/p-1/b4-2+;/t20-;/m0./s1
